US05308853
Methyl Z-4-[[2-Butyl-5-[(1-Butyl-2,5-Dioxo-4-Imidazolidinylidene) Methyl]-1H-Imidazol-1-yl]Methyl]Benzoate
To a solution of diethyl 2,5-dioxo-4-imidazolylphosphonate (1.5 g, 0.33 mmol) in DMF (4 mL) is added K2CO3 and then 1-iodobutane (0.79 mL, 6.96 mmol). This mixture is stirred for 16 hours at room temperature. To this yellow mixture is added methyl 4-[(2-butyl-5-formyl-1H-imidazol-1-yl)methyl]benzoate (1.05 g, 3.5 mmol). After 2 hours methylene chloride (10 mL) was added to aid stirring. The mixture was stirred for 16 hours. After diluting the reaction mixture with water it was extracted with ethyl acetate. This extract was washed with water and brine. The extract was dried over MgSO4, filtered and then concentrated until crystallization was apparent. The solid was collected and dried.

reactant | diethyl 2,5-dioxo-4-imidazolylphosphonate | 0.33 mmol, 1.5 g | O=C1NC(C(=N1)P(OCC)(OCC)=O)=O | C7H11N2O5P
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodobutane | 6.96 mmol, 0.79 mL | ICCCC | C4H9I
reactant | methyl 4-[(2-butyl-5-formyl-1H-imidazol-1-yl)methyl]benzoate | 3.5 mmol, 1.05 g | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C(=O)OC)C=C1 | C17H20N2O3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl Z-4-[[2-Butyl-5-[(1-Butyl-2,5-Dioxo-4-Imidazolidinylidene) Methyl]-1H-Imidazol-1-yl]Methyl]Benzoate | C(CCC)C=1N(C(=CN1)\C=C\1/NC(N(C1=O)CCCC)=O)CC1=CC=C(C(=O)OC)C=C1 | C24H30N4O4
